US08242121B2
2-(2H-1,2,3-Triazol-2-yl)-5-methylbenzoic acid (A-8)
A solution of 2-iodo-5-methylbenzoic acid (4.0 g, 15.3 mmol) in DMF (10 mL) was treated with 1,2,3-triazole (2.1 g, 30.5 mmol), Cs2CO3 (9.95 g, 30.5 mmol), CuI (0.145 g, 0.76 mmol) and trans-N,N′-dimethylcyclohexane-1,2-diamine (0.43 g, 3.05 mmol). The mixture was heated at 120° C. for 10 min in a microwave reactor. The reaction was cooled to room temperature, diluted with water, and washed with EtOAc. The aqueous phase was acidified with 1N HCl and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by gradient elution on SiO2 (0 to 10% MeOH in CH2Cl2 with 0.1% AcOH) to give the faster eluting 2-(2H-1,2,3-triazol-2-yl)-5-methylbenzoic acid A-8, followed by the undesired regioisomer isomer, 1-(2H-1,2,3-triazol-2-yl)-5-methylbenzoic acid. Data for A-8: 1HNMR (500 MHz, DMSO-d6) δ 12.98 (br s, 1H), 8.04 (s, 2H), 7.72-7.45 (m, 3H), 2.41 (s, 3H) ppm.

reactant | 2-iodo-5-methylbenzoic acid | 15.3 mmol, 4.0 g | IC1=C(C(=O)O)C=C(C=C1)C | C8H7IO2
reactant | 1,2,3-triazole | 30.5 mmol, 2.1 g | N1N=NC=C1 | C2H3N3
reactant | Cs2CO3 | 30.5 mmol, 9.95 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 3.05 mmol, 0.43 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | CuI | 0.76 mmol, 0.145 g | [Cu]I
product | 2-(2H-1,2,3-Triazol-2-yl)-5-methylbenzoic acid | N=1N(N=CC1)C1=C(C(=O)O)C=C(C=C1)C | C10H9N3O2
